US04956359
N-Methyl-N-(2-propynyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A mixture of 5.6 g (0.02 mole) of 1-chlorocarbonyl-3-[3-(trifluoromethyl)phenoxy]azetidine and 3 g (0.022 mole) of potassium carbonate in 50 ml of tetrahydrofuran was treated while stirring with 1.52 g of N-methylpropargylamine. After stirring for 15 min, 10 g of ice was added and stirring continued for an additional 72 hr. The tetrahydrofuran was decanted from the salt paste and concentrated on a rotary evaporator to yield an amber oil, 5.9 g. This oil solidified when cooled to -70° C. and was recrystallized from hexane to yield 4.6 g (74.2%) of fine white crystals, m.p. 71°-73° C.

reactant | 1-chlorocarbonyl-3-[3-(trifluoromethyl)phenoxy]azetidine | 0.02 mole, 5.6 g | ClC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C11H9ClF3NO2
reactant | potassium carbonate | 0.022 mole, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpropargylamine | 1.52 g | CNCC#C | C4H7N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-Methyl-N-(2-propynyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 4.6 g, 74.2% | CN(C(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F)CC#C | C15H15F3N2O2
